US06723744B2
Step D: Preparation of 5-(4-Hydroxy-3-isopropyl-phenoxy)-4,6-dimethyl-1H-indole-2-carboxylic acid ethyl ester
A mixture of p-toluenesulfonic acid (130 mg, 0.75 mmol) and 2-{[4-(4-hydroxy-3-isopropyl-phenoxy)-3,5-dimethyl-phenyl]-hydrazono}-propionic acid ethyl ester (193 mg, 0.50 mmol) in toluene (2 mL) was heated to reflux for 2 hours and then cooled to room temperature. Saturated aqueous NaHCO3 (10 mL) and ehtyl acetate (25 mL) were added. The organic layer was separated, washed with saturated NaHCO3 (2 times 25 mL), 1M hydrochloric acid (25 mL), brine (25 mL), dried (Na2SO4), filtered, and concentrated. The residue was purified by preparative thin layer chromatography (3% methanol in methylene chloride ) to afford the title compound (60 mg) as a solid. 1H NMR (400 MHz, CDCl3) δ8.82 (s, 1H), 7.20 (s, 1H), 7.09 (s, 1H), 6.74 (d, 1H), 6.55 (d, 1H), 6.28-6.25 (m, 1H), 4.41-4.35 (q, 2H), 3.15-3.11 (m, 1H), 2.30 (s, 3H), 2.20 (s, 3H), 1.40 (t, 3H), 1.18 (d, 6H). MS (APCI−) Calc: 367.2, Found: 366.3 (M−1).

reactant | p-toluenesulfonic acid | 0.75 mmol, 130 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-{[4-(4-hydroxy-3-isopropyl-phenoxy)-3,5-dimethyl-phenyl]-hydrazono}-propionic acid ethyl ester | 0.50 mmol, 193 mg | C(C)OC(C(C)=NNC1=CC(=C(C(=C1)C)OC1=CC(=C(C=C1)O)C(C)C)C)=O | C22H28N2O4
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
reactant | ehtyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Hydroxy-3-isopropyl-phenoxy)-4,6-dimethyl-1H-indole-2-carboxylic acid ethyl ester | 60 mg | C(C)OC(=O)C=1NC2=CC(=C(C(=C2C1)C)OC1=CC(=C(C=C1)O)C(C)C)C | C22H25NO4
